US06777443B2
To a solution of BOC-L-homoserine t-butyl ester (3.2 g, 11.6 mmol) in tetrahydrofuran is added triphenylphosphine (7.59 g, 29 mmol), p-fluorophenol (2.08 g, 18.6 mmol) and 1,1′-azobis(N,N-dimethylformamide) (3.2 g, 18.6 mmol). The mixture is stirred overnight, washed with brine, dried over MgSO4, and the solvent is removed to give an orange oil. The oil is purified by flash chromatography (SiO2, 85% hexane/15% ethyl acetate) to give a clear oil which is dissolved in ethanol (100 mL) and the solution is saturated with HCl gas, then stirred overnight. The mixture is concentrated to give O-(4-fluorophenyl)-L-homoserine ethyl ester hydrochloride as a white solid.

reactant | BOC-L-homoserine t-butyl ester | 11.6 mmol, 3.2 g | C(C)(C)(C)OC([C@@H](NC(=O)OC(C)(C)C)CCO)=O | C13H25NO5
reactant | triphenylphosphine | 29 mmol, 7.59 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | p-fluorophenol | 18.6 mmol, 2.08 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | 1,1′-azobis(N,N-dimethylformamide) | 18.6 mmol, 3.2 g | N(=NC(=O)N(C)C)C(=O)N(C)C | C6H12N4O2
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | O-(4-fluorophenyl)-L-homoserine ethyl ester hydrochloride | Cl.C(C)OC([C@@H](N)CCOC1=CC=C(C=C1)F)=O | InChI=1S/C12H16FNO3.ClH/c1-2-16-12(15)11(14)7-8-17-10-5-3-9(13)4-6-10;/h3-6,11H,2,7-8,14H2,1H3;1H/t11-;/m0./s1
